US07241785B2
A mixture of methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate (298 mg), 5-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine (533 mg), potassium carbonate (484 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl [3-[6-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-pyridylmethoxy]-1-methyl-1H-pyrazol-4-yl]acetate (623 mg, yield 81%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio).

reactant | methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate | 298 mg | OC1=NN(C=C1CC(=O)OC)C | C7H10N2O3
reactant | 5-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine | 533 mg | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C=1OC=CC1 | C15H13ClN2O3
reactant | potassium carbonate | 484 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [3-[6-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-pyridylmethoxy]-1-methyl-1H-pyrazol-4-yl]acetate | 623 mg, yield 81% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=N1)COC1=NN(C=C1CC(=O)OC)C)C | C22H22N4O6
